US04616015
A solution of sodium nitrite (1.14 g) in water (3 ml) was added dropwise to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (3.06 g) in a mixture of water (12 ml) and conc. hydrochloric acid (4.5 ml) over a period of 30 minutes under ice cooling. The resultant diazonium solution was cautiously neutralized with a saturated solution of sodium carbonate in water and then a cold mixture of potassium cyanide (1.88 g) and cuprous cyanide (1.17 g) in water (12 ml) was added to the solution. After stirring for 1 hour, the resultant precipitates were collected by filtration, washed successively with water, 1N-sodium hydroxide solution, 1N-hydrochloric acid, water, and then dissolved in aqueous ethanol. The solution was treated with activated charcoal and then evaporated in vacuo. The residue was chromatographed on silica gel (190 g) with a mixture of chloroform and methanol (20:1) as an eluent. The eluents containing object compound were evaporated in vacuo and the residue was recrystallized from aqueous ethanol to give 6-(4-cyanophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.469 g).

reactant | sodium nitrite | 1.14 g | N(=O)[O-].[Na+]
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 3.06 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | hydrochloric acid | 4.5 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium cyanide | 1.88 g | [C-]#N.[K+]
solvent | water | 3 ml | O | H2O
solvent | water | 12 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | 6-(4-cyanophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.469 g | C(#N)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C11H10N4O
